US07842688B2
d) [2-(2-Methoxyphenyl)ethoxy]acetic acid
The solution of 10.0 g of 2-(2-methoxyphenyl)ethanol in 130 ml of dimethyl sulphoxide is admixed with stirring with sodium hydride dispersion (60%) and stirred at 60° C. over 10 min. The suspension is admixed slowly with 6.20 g of chloroacetic acid and subsequently stirred at 80° C. over 2 hours. The reaction mixture is cooled, poured onto ice-water (0.5 l) and washed with ethyl acetate (1×250 ml). The aqueous phase is acidified with 2M HCl and extracted with ethyl acetate (2×250 ml). The organic phases are washed successively with water (250 ml) and brine (1×250 ml), dried over sodium sulphate, filtered and concentrated. The title compound is obtained as a slightly yellowish oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.04 (200:20:1 dichloromethane-methanol-conc. ammonia); Rt=3.44.

reactant | 2-(2-methoxyphenyl)ethanol | 10.0 g | COC1=C(C=CC=C1)CCO | C9H12O2
reactant | sodium hydride | [H-].[Na+]
reactant | chloroacetic acid | 6.20 g | ClCC(=O)O | C2H3ClO2
solvent | dimethyl sulphoxide | 130 ml | CS(=O)C | C2H6OS
product | [2-(2-Methoxyphenyl)ethoxy]acetic acid | COC1=C(C=CC=C1)CCOCC(=O)O | C11H14O4
